US09370522B2
A solution of 1,2-bis(4-methoxyphenyl)ethane-1,2-dione (400 mg, 1.48 mmol, 1.00 equiv) and 3,4-diaminobenzenesulfonic acid (278 mg, 1.48 mmol, 1.00 equiv) in ethanol/water (10/10 mL) was stirred overnight at reflux in an oil bath. The resulting mixture was concentrated under vacuum, yielding 500 mg (80%) of 2,3-bis(4-methoxyphenyl)quinoxaline-6-sulfonic acid as a brown solid.

reactant | 1,2-bis(4-methoxyphenyl)ethane-1,2-dione | 1.48 mmol, 400 mg, 1.00 equiv | COC1=CC=C(C=C1)C(C(=O)C1=CC=C(C=C1)OC)=O | C16H14O4
reactant | 3,4-diaminobenzenesulfonic acid | 1.48 mmol, 278 mg, 1.00 equiv | NC=1C=C(C=CC1N)S(=O)(=O)O | C6H8N2O3S
solvent | ethanol water | 10 mL | C(C)O.O
product | 2,3-bis(4-methoxyphenyl)quinoxaline-6-sulfonic acid | 500 mg, 80% | COC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1C1=CC=C(C=C1)OC)S(=O)(=O)O | C22H18N2O5S
